US07560462B2
Step 4: Dimethyl-[2-(4-methyl-2-nitro-phenyl)thiazol-4-ylmethyl]amine
Dimethylamine (640 uL of a 2M solution in MeOH), sodium acetate, and sodium cyanoborohydride (56 mgs, 0.89 mmol) were stirred in 2.6 mL MeOH at room temperature under N2. Glacial HOAc was added to adjust the pH to 7-8. 2-(4-Methyl-2-nitro-phenyl)thiazole-4-carbaldehyde (159 mgs, 0.64 mmol) then was added as a solution in 3.2 mL of MeOH. After 2 h, product formation was apparent by mass spectroscopy. The reaction was allowed to proceed overnight. At that time, acetone (500 uL) was added to quench any unreacted borohydride and the reaction acidified to pH<3. The reaction was concentrated. The residue was partitioned between Et2O (30 mL) and H2O (30 mL). The aqueous phase was extracted with Et2O, then neutralized with 1N NaOH to pH 10. The aqueous phase was re-extracted with Et2O. The combined organics were dried over MgSO4, filtered and concentrated under reduced pressure to provide the desired material.

reactant | Dimethylamine | CNC | C2H7N
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 0.89 mmol, 56 mgs | C(#N)[BH3-].[Na+]
reactant | 2-(4-Methyl-2-nitro-phenyl)thiazole-4-carbaldehyde | 0.64 mmol, 159 mgs | CC1=CC(=C(C=C1)C=1SC=C(N1)C=O)[N+](=O)[O-] | C11H8N2O3S
solvent | MeOH | CO | CH4O
solvent | MeOH | 2.6 mL | CO | CH4O
solvent | MeOH | 3.2 mL | CO | CH4O
solvent | acetone | 500 uL | CC(=O)C | C3H6O
solvent | HOAc | CC(=O)O | C2H4O2
product | Dimethyl-[2-(4-methyl-2-nitro-phenyl)thiazol-4-ylmethyl]amine | CN(CC=1N=C(SC1)C1=C(C=C(C=C1)C)[N+](=O)[O-])C | C13H15N3O2S
